US04118742
Ten grams of 4-acetamido-3-nitrobenzophenone were added portionwise to 40 ml. of sulfuric acid. The reaction temperature was moderated with a water bath. After stirring about 45 minutes the reaction mixture was carefully poured over ice. The precipitated product was filtered to yield 4-amino-3-nitrobenzophenone.

reactant | 4-acetamido-3-nitrobenzophenone | Ten grams | C(C)(=O)NC1=C(C=C(C(=O)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C15H12N2O4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 4-amino-3-nitrobenzophenone | NC1=C(C=C(C(=O)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C13H10N2O3
